US07081538B1
(5RS)-3-(3-Fluoro-4-iodophenyl)-5-methanesulfonyloxymethyl-4,5-dihydroisoxazole
(5RS)-3-(3-Fluoro-4-iodophenyl)-5-hydroxymethyl-4,5-dihydroisoxazole (2 g, 6.2 mM) was treated with methanesulfonyl chloride under essentially the conditions of the equivalent intermediate of Example 4. Product was obtained as a white solid (2.18 g) without chromatography. MS (EI): 399 (M+) for C11H11FINO4S

reactant | (5RS)-3-(3-Fluoro-4-iodophenyl)-5-hydroxymethyl-4,5-dihydroisoxazole | 6.2 mM, 2 g | FC=1C=C(C=CC1I)C1=NOC(C1)CO | C10H9FINO2
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
product | (5RS)-3-(3-Fluoro-4-iodophenyl)-5-methanesulfonyloxymethyl-4,5-dihydroisoxazole | 2.18 g | FC=1C=C(C=CC1I)C1=NOC(C1)COS(=O)(=O)C | C11H11FINO4S
